US07816371B2
d. (R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-3-methylbutanamide
(R)-N-Cyclopropyl-3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanamide (1.3 g, 0.0039 mol) was stirred with palladium 10% wt. on calcium carbonate (0.2 g, 0.0001 mol) in methanol (60 mL, 1 mol) under hydrogen (balloon) for 1 h at room temperature. The catalyst was filtered and the filtrate was concentrated to dryness to give a brown oil. MS m/z 301.1 (M+H)+.

reactant | (R)-N-Cyclopropyl-3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanamide | 0.0039 mol, 1.3 g | C1(CC1)NC([C@@H](C(C)C)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)=O | C17H19N3O4
reactant | methanol | 1 mol, 60 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (R)-2-(5-Amino-1-oxoisoquinolin-2(1H)-yl)-N-cyclopropyl-3-methylbutanamide | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)NC1CC1)C(C)C | C17H21N3O2
